US07199147B2
A 2N-aqueous lithium hydroxide solution (85 ml, 170 mmol) was added to a solution of (1-acetyl-4,7-dimethyl-1H-indazol-5-yl)acetate (20.3 g, 82.4 mmol) in methanol-tetrahydrofuran (1:1, 170 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 30 minutes. A saturated aqueous ammonium chloride solution was poured into the reaction solution, followed by extraction with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and then distilled under reduced pressure to remove the solvent. The residue was washed with acetonitrile by repulping to obtain 4,7-dimethyl-1H-indazol-5-ol (13.0 g, 97%).

reactant | lithium hydroxide | 170 mmol, 85 ml | [OH-].[Li+]
reactant | (1-acetyl-4,7-dimethyl-1H-indazol-5-yl)acetate | 82.4 mmol, 20.3 g | C(C)(=O)N1N=CC2=C(C(=CC(=C12)C)CC(=O)[O-])C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol tetrahydrofuran | 170 ml | CO.O1CCCC1
product | 4,7-dimethyl-1H-indazol-5-ol | 13.0 g, 97% | CC1=C2C=NNC2=C(C=C1O)C | C9H10N2O
